US06303347B1
In the same manner as described in Example 20-(1), 4-amino-1-(t-butyldiphenylsilyloxy)butane (500 mg, 1.53 mmol) was acylated with (R)-3-tetradecanoyloxytetradecanoic acid (695 mg, 1.53 mmol) in the presence of EDC·MeI (595 mg, 2.0 mmol) and then deprotected with TBAF (1.0 M in THF, 2.5 mL, 2.5 mmol) in THF (15 mL) to afford 651 mg (81%) of 4-[(R)-3-tetradecanoyloxytetradecanoylamino]-1-butanol as an off-white solid.

reactant | 4-amino-1-(t-butyldiphenylsilyloxy)butane | 1.53 mmol, 500 mg | NCCCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C20H29NOSi
reactant | (R)-3-tetradecanoyloxytetradecanoic acid | 1.53 mmol, 695 mg | C(CCCCCCCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C28H54O4
reactant | EDC·MeI | 2.0 mmol, 595 mg | C(CCl)Cl.CI
reactant | TBAF | 2.5 mmol, 1.0 M, 2.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-[(R)-3-tetradecanoyloxytetradecanoylamino]-1-butanol | 651 mg, 81% | C(CCCCCCCCCCCCC)(=O)O[C@@H](CC(=O)NCCCCO)CCCCCCCCCCC | C32H63NO4
